US08865712B2
a) 5-Bromo-3-nitro-pyridine-2-carboxylic acid tert-butyl ester
To an ice cooled solution of 5-bromo-3-nitro-pyridine-2-carboxylic acid (4.84 g, 19.59 mmol, CAS 954240-89-2) in THF (59 ml) was added DMAP (239 mg, 1.96 mmol) and Boc2O (5.56 g, 25.5 mmol) and the reaction mixture was heated to 60° C. for 3 h. After cooling to 0° C. half saturated aq. sodium bicarbonate was added and the mixture extracted with EtOAc. The combined organic layers were washed with water and half saturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 3:2) to provide the title compound as pale beige solid.

reactant | 5-bromo-3-nitro-pyridine-2-carboxylic acid | 19.59 mmol, 4.84 g | BrC=1C=C(C(=NC1)C(=O)O)[N+](=O)[O-] | C6H3BrN2O4
reactant | Boc2O | 25.5 mmol, 5.56 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 59 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 1.96 mmol, 239 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-Bromo-3-nitro-pyridine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=NC=C(C=C1[N+](=O)[O-])Br | C10H11BrN2O4
